US07842685B2
In a reactor bottle were combined 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-phenyl-2-(trimethylsilyl)cyclopropyl)benzo[d]thiazole (1.305 g, 2.6 mmol) and neat tetrabutylammonium fluoride (25 mL, 25 mmol). The reaction mixture was heated to 110° C. in an oil bath and allowed to stir for 2 h. The mixture was cooled and extracted with EtOAc and water, dried over MgSO4 and concentrate in vacuo. Purification by silica gel chromatography afforded 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-phenylcyclopropyl)-benzo[d]thiazole. MS (ESI) m/z: Calculated: 431.1; Observed: 432.1 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-phenyl-2-(trimethylsilyl)cyclopropyl)benzo[d]thiazole | 2.6 mmol, 1.305 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C2(C(C2)[Si](C)(C)C)C2=CC=CC=C2)F | C29H30FNO2SSi
reactant | tetrabutylammonium fluoride | 25 mmol, 25 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-phenylcyclopropyl)-benzo[d]thiazole | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C2(CC2)C2=CC=CC=C2)F | C26H22FNO2S
